US06498159B1
2.75 g of N-(4-methoxy-3-vinylbenzyl)phthalimide was dissolved in 50 ml tetrahydrofuran, 0.1 g of 10% Pd-C was added thereto, and the mixture was stirred for 40 min in a hydrogen atmosphere. The reaction solution was filtered through Celite, and the filtrate was evaporated. The resulting residue was purified by silica gel column chromatography to give 2.55 g of N-(3-ethyl-4-methoxybenzyl)phthalimide.

reactant | N-(4-methoxy-3-vinylbenzyl)phthalimide | 2.75 g | COC1=C(C=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1)C=C | C18H15NO3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | Pd-C | 0.1 g | [Pd] | Pd
product | N-(3-ethyl-4-methoxybenzyl)phthalimide | 2.55 g | C(C)C=1C=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1OC | C18H17NO3
